US04480101
A mixture of 2.5 g of 2-difluoromethoxyphenyl-sulfonylisocyanate, 1.75 g of 2-amino-4-difluoromethoxy-6-methylpyrimidine and 30 ml of absolute dioxane is stirred at a temperature of 70° to 75° C. for 2 hours. The solution is concentrated by evaporation, and the residue is then crystallised from ether to obtain 4.0 g of N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-difluoromethoxy-6-methylpyrimidin-2-yl)-urea, m.p. 163° to 164° C.

reactant | 2-difluoromethoxyphenyl-sulfonylisocyanate | 2.5 g | FC(OC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO4S
reactant | 2-amino-4-difluoromethoxy-6-methylpyrimidine | 1.75 g | NC1=NC(=CC(=N1)OC(F)F)C | C6H7F2N3O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(2-difluoromethoxyphenyl-sulfonyl)-N'-(4-difluoromethoxy-6-methylpyrimidin-2-yl)-urea | 4.0 g | FC(OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC(F)F)C)F | C14H12F4N4O5S
